US07625932B2
Preparation of 4-cyano-5-ethyl-3-(4-phenylcarbamoyl-phenyl)-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Add N-chlorosuccinimide (0.13 g, 1.0 mmol) to 3-(4-carboxy-phenyl)-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (0.33 g, 11.0 mmol, prepared in example E-157) and triphenyl-phosphine (0.26 g, 1.0 mmol) in methylene chloride at 0° C. with stirring. Allow the reaction to warm to room temperature. After 30 minutes, add aniline (0.18 mL, 2.0 mmol). After 2-3 hours, pour the reaction mixture into water and extract with methylene chloride. Combine the organic extracts, wash with water and brine, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes to provide the title compound. Mass spectrum (m/e): 402.0 (M+1).

reactant | N-chlorosuccinimide | 1.0 mmol, 0.13 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-(4-carboxy-phenyl)-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 11.0 mmol, 0.33 g | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C(=O)O)C#N)CC)C | C18H18N2O4
reactant | triphenyl-phosphine | 1.0 mmol, 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | aniline | 2.0 mmol, 0.18 mL | NC1=CC=CC=C1 | C6H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-cyano-5-ethyl-3-(4-phenylcarbamoyl-phenyl)-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C(NC1=CC=CC=C1)=O)C#N)CC)C | C24H23N3O3
